US03933794
A stirred solution of 1.0 g. of 8-chloro-1-methyl-6-phenyl-4H-imidazo[1,2-a][1,4]benzodiazepine (Ia) in absolute ethanol in an ice bath is treated with 1.0 g. of m-chloroperbenzoic acid. The mixture is allowed to stand in the ice bath for about 8 hous and at room temperature at about 24° C. for approximately 18 hours. It is then concentrated in vacuo, the residue thus obtained is suspended in aqueous, cold, dilute potassium carbonate solution and extracted with methylene chloride. The extract is washed with water, dried and concentrated in vacuo. The residue thus obtained is chromatographed on 100 g. of silica gel to give 8-chloro-1-methyl-6-phenyl-4H-imidazo[1,2-a][1,4]benzodiazepine-5-oxide.

reactant | 8-chloro-1-methyl-6-phenyl-4H-imidazo[1,2-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=CN3)C)C3=CC=CC=C3)C1 | C18H14ClN3
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | C(C)O | C2H6O
product | 8-chloro-1-methyl-6-phenyl-4H-imidazo[1,2-a][1,4]benzodiazepine-5-oxide | ClC=1C=CC2=C(C(=[N+](CC=3N2C(=CN3)C)[O-])C3=CC=CC=C3)C1 | C18H14ClN3O
